US05521188
3-[3-[4-(5-Methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5-(1,2-dioxo-4-hydroxy-3-cyclobuten-3-yl)amino-1H-indole (I-1)
To a solution of 3-[3-[4-(5-methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5 [1,2-dioxo-4-(1-methylethoxy)-3-cyclobuten-3-yl]aminoindole (I-3) (0.175 g, 0.35 mmol) in 5 mL of methanol was added 0.10 mL (0.60 mmol) of 6N HCl and the mixture was heated at ca. 80° C. for 5 h. Another 0.10 mL (0.60 mmol) of 6N HCl was then added, as well as 0.20 mL of H2O, and the mixture was heated at ca. 100° C. for 18 h. On cooling to room temperature, the resulting suspension was filtered and the residue was washed (acetone, ether) and then air-dried. This solid (0.130 g) was taken up in methanol and the resulting solution was treated with charcoal, filtered and evaporated to give the hydrochloride salt of the title compound (0.075 g, 36%) as a beige solid, mp 215° C. (dec): IR (KBr) 3410 (br), 3240 (br), 1783, 1700, 1632, 1547 cm -1 ; 1H NMR (DMSO-d6, 200 MHz) δ10.88 (s, 1H), 10.37 (s, 1H), 8.56 (s, 1H), 8.19 (s, 1H), 7.62 (s, 1H), 7.29 (d, J=8.6 Hz, 1H), 7.21 (s, 1H), 7.10 (dd, J=8.6, 1.8 Hz, 1H), 4.80 (br m, 2H), 3.90 (s, 3H), 3.57 (br m, 4H), 3.13 (br m, 4H), 2.73 (m, 2H), 2.12 (m, 2H). Anal. Calcd for C24H26N6O4. 3 HCl. H2O: C, 48.86; H, 5.30; N, 14.25. Found: C, 48.81; H, 5.51; N, 14.22.

reactant | 3-[3-[4-(5-methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5 [1,2-dioxo-4-(1-methylethoxy)-3-cyclobuten-3-yl]aminoindole | 0.35 mmol, 0.175 g | COC=1C(=NC=NC1)N1CCN(CC1)CCCC1=CNC2=CC=C(C=C12)NC=1C(C(C1OC(C)C)=O)=O | C27H32N6O4
reactant | HCl | 0.60 mmol, 6N, 0.10 mL | Cl | ClH
reactant | HCl | 0.60 mmol, 6N, 0.10 mL | Cl | ClH
reactant | H2O | 0.20 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 3-[3-[4-(5-Methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5-(1,2-dioxo-4-hydroxy-3-cyclobuten-3-yl)amino-1H-indole | 0.075 g, 36% | COC=1C(=NC=NC1)N1CCN(CC1)CCCC1=CNC2=CC=C(C=C12)NC=1C(C(C1O)=O)=O | C24H26N6O4
